US09353107B2
Step-iii: tert-butyl 4-(2-amino-4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate
Using similar reaction conditions as described in example-8, tert-butyl 4-(4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-nitrophenyl)piperazine-1-carboxylate (90 mg, 0.15 mmol) was reduced by 10% palladium on carbon (10 mg, 10% W/W) in methanol (10 mL) to yield crude 90 mg of the titled compound. MS: m/z=567.8 (M+1).

reactant | tert-butyl 4-(4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-nitrophenyl)piperazine-1-carboxylate | 0.15 mmol, 90 mg | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C3=CC(=C(C=C3)N3CCN(CC3)C(=O)OC(C)(C)C)[N+](=O)[O-])C=CC1 | C32H32FN7O4
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | tert-butyl 4-(2-amino-4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate | 90 mg | NC1=C(C=CC(=C1)C=1C=C2C(=NC1)NC=C2C=2C=NN(C2)CC2=CC(=CC=C2)F)N2CCN(CC2)C(=O)OC(C)(C)C | C32H34FN7O2
